US05843973
N-t-Butoxycarbonyl-2-(trans-4-methanesulfonyloxymethylcyclohexyl)ethylamine
In 50 ml of dry dichloromethane was dissolved 1.0 g of trans-4-(2-t-butoxycarbonylaminoethyl)-1-hydroxymethylcyclohexane, and 0.81 ml of triethylamine and 829 mg of methanesulfonic acid anhydride were added thereto with stirring under ice-cooling, and the mixture was stirred at room temperature for 40 minutes. Then, the solvent was distilled off under reduced pressure and 150 ml of ethyl acetate was added to the residue. The mixture was washed successively with an aqueous sodium chloride solution, an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Isopropyl ether was added to the resulting crystalline solid and a crystalline solid was collected by filtration to obtain 1.13 g of the desired compound as a colorless crystalline solid.

reactant | trans-4-(2-t-butoxycarbonylaminoethyl)-1-hydroxymethylcyclohexane | 1.0 g | C(C)(C)(C)OC(=O)NCC[C@@H]1CC[C@H](CC1)CO | C14H27NO3
reactant | triethylamine | 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 829 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-t-Butoxycarbonyl-2-(trans-4-methanesulfonyloxymethylcyclohexyl)ethylamine | 1.13 g | C(C)(C)(C)OC(=O)NCC[C@@H]1CC[C@H](CC1)COS(=O)(=O)C | C15H29NO5S
